US06143764
N-{4-[(6,7-Dimethoxy-4-quinolyl)oxy]phenyl}-N'-(3-nitrophenyl)urea [170]
6,7-Dimethoxy-4-(4-aminophenoxy)quinoline (83 mg) was dissolved in toluene (6 ml) with heat, 3-nitrophenyl isocyanate (384 mg) was added, and the admixture was refluxed with heat for 40 minutes. The resulting residue was purified by column chromatography on silica gel eluting with chloroform/acetone (10/1) to obtain 44 mg of the title compound (yield: 34%).

reactant | 6,7-Dimethoxy-4-(4-aminophenoxy)quinoline | 83 mg | COC=1C=C2C(=CC=NC2=CC1OC)OC1=CC=C(C=C1)N | C17H16N2O3
reactant | 3-nitrophenyl isocyanate | 384 mg | [N+](=O)([O-])C=1C=C(C=CC1)N=C=O | C7H4N2O3
solvent | toluene | 6 ml | C1(=CC=CC=C1)C | C7H8
product | N-{4-[(6,7-Dimethoxy-4-quinolyl)oxy]phenyl}-N'-(3-nitrophenyl)urea | 44 mg, yield: 34% | COC=1C=C2C(=CC=NC2=CC1OC)OC1=CC=C(C=C1)NC(=O)NC1=CC(=CC=C1)[N+](=O)[O-] | C24H20N4O6
